Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.14329050268
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])[H:7])=[C:9]\[C:10]([H:11])([H:12])[H:13].[H:8],4.36619730682
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.01045384218
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],2.2390632476
[H:10].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.53981567859
[H:1][O:2][C:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.47928722718
[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-1.32385996176
[H:1][C:2][O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.68788955498
[H:1][C:2](=[C:3]([H:4])[H:5])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.91127355091
[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-3.588403827790001
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.217896253919999
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:3],4.268386060269998
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.78829415145
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.97965538587
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10],2.53897654438
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][H:10].[H:8]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.04990040068
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],4.5455043793000005
[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.17085413511
[H:1][C:2]#[C:3][C:5]([H:6])[H:7].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],-1.69287640314
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:12][H:13],6.04517737351
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9],3.53984949334
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.51393247093
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.7963153410300015
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.54201352335
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[O:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9],1.25758344242
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.0809525298
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],2.4321248514
[H:6].[O:1][C:2]([H:3])([H:4])/[C:5]=[C:7](\[H:8])[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.03771992252
